US04603011
N-Cbz-2-amino-2-methyl-1-[di-(t-butyl)methoxy]propane is dissolved in CH3OH and hydrogenated over 5% Pd/C in a Paar hydrogenation apparatus. When the reaction is complete the mixture is filtered through Celite and concentrated to yield 2-amino-2-methyl-1-[di-(t-butyl)methoxy]propane.

reactant | N-Cbz-2-amino-2-methyl-1-[di-(t-butyl)methoxy]propane | C(=O)(OCC1=CC=CC=C1)NC(COC(C(C)(C)C)C(C)(C)C)(C)C | C21H35NO3
solvent | CH3OH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-amino-2-methyl-1-[di-(t-butyl)methoxy]propane | NC(COC(C(C)(C)C)C(C)(C)C)(C)C | C13H29NO
